US09029560B2
Preparation of 1-[(2-isopropyl-5-methyl-phenyl)carbamothioyl]-3-[3-[4-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]propyl]urea (F21)
To 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-1-amine (C60) (0.231 g, 0.639 mmol) in a 25 mL vial equipped with a stir bar and nitrogen was added dichloromethane (4.3 mL), water (2.1 mL), and sodium bicarbonate (0.161 g, 1.92 mmol). Triphosgene (0.0760 g, 0.255 mmol) was added in one portion and the reaction was stirred vigorously until the conversion of the starting material was observed by LCMS. The reaction mixture was diluted with dichloromethane, poured through a phase separator and concentrated. The resultant solid was suspended in acetonitrile (6.0 mL) in a 100 mL round bottomed flask equipped with a stir bar and nitrogen. To this was added cesium carbonate (0.229 g, 0.702 mmol) and 1-(2-isopropyl-5-methylphenyl)thiourea (0.133 g, 0.639 mmol). The reaction was stirred overnight at room temperature. The mixture was diluted with ethyl acetate and washed with water. The aqueous layer was extracted with ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered and concentrated. Purification by flash column chromatography using 0-30% ethyl acetate/B, where B=1:1 dichloromethane/hexanes, as eluent provided mixed fractions. The fractions were combined and re-purified by flash column chromatography using 0-30% ethyl acetate/B, where B=1:1 dichloromethane/hexanes, as eluent and the resultant solid was dried in vacuo at 50° C. overnight to afford the title compound as a white solid (0.145 g, 38%).

reactant | 3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-1-amine | 0.639 mmol, 0.231 g | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)CCCN)(F)F | C18H17F3N4O
reactant | sodium bicarbonate | 1.92 mmol, 0.161 g | C([O-])(O)=O.[Na+]
reactant | Triphosgene | 0.255 mmol, 0.0760 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | cesium carbonate | 0.702 mmol, 0.229 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-(2-isopropyl-5-methylphenyl)thiourea | 0.639 mmol, 0.133 g | C(C)(C)C1=C(C=C(C=C1)C)NC(=S)N | C11H16N2S
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 4.3 mL | ClCCl | CH2Cl2
solvent | water | 2.1 mL | O | H2O
product | 1-[(2-isopropyl-5-methyl-phenyl)carbamothioyl]-3-[3-[4-[1-[4-(trifluoromethoxy)phenyl]-1H-1,2,4-triazol-3-yl]phenyl]propyl]urea | 0.145 g, 38% | C(C)(C)C1=C(C=C(C=C1)C)NC(=S)NC(=O)NCCCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C30H31F3N6O2S
